US07268145B2
Triethylamine (276 μl, 1.98 mmol) and 2-(bromoethyl)benzoic acid t-butyl ester (538 mg, 1.99 mmol) were added to 5,6-dimethylbenzimidazole-2-thiol (236 mg, 1.32 mmol) in 2 ml of dimethylformamide, which was then stirred at 80° C. for 3 hours. After the reaction was complete, water was added, followed by extraction with ethyl acetate. After drying the ethyl acetate phase with anhydrous sodium sulfate, it was concentrated, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain 2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester (288 mg, yield 59%).

reactant | Triethylamine | 1.98 mmol, 276 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(bromoethyl)benzoic acid t-butyl ester | 1.99 mmol, 538 mg | C(C)(C)(C)OC(C1=C(C=CC=C1)CCBr)=O | C13H17BrO2
reactant | 5,6-dimethylbenzimidazole-2-thiol | 1.32 mmol, 236 mg | CC1=CC2=C(N=C(N2)S)C=C1C | C9H10N2S
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-((5,6-dimethylbenzimidazole-2-ylthio)methyl)benzoic acid t-butyl ester | 288 mg, yield 59% | C(C)(C)(C)OC(C1=C(C=CC=C1)CSC=1NC2=C(N1)C=C(C(=C2)C)C)=O | C21H24N2O2S
